************************************************************************
*
* Copyright 2023 IHP PDK Authors
* 
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
* 
*    https://www.apache.org/licenses/LICENSE-2.0
* 
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
************************************************************************

* Library name: sg13g2_stdcell
* Cell name: sg13g2_inv_16
* View name: schematic
.subckt sg13g2_inv_16 Y A VDD VSS
XN0 Y A VSS VSS sg13_lv_nmos w=11.84u l=130.00n ng=16 ad=2.25e-12 as=2.472e-12 pd=1.792e-05 ps=2e-05 m=1
XP0 Y A VDD VDD sg13_lv_pmos w=17.92u l=130.00n ng=16 ad=3.405e-12 as=3.741e-12 pd=2.4e-05 ps=2.684e-05 m=1
.ends
* End of subcircuit definition.
